US07435837B2
Treatment of (S)-2-(3-bromo-2-hydroxy-propyl)4-fluoro-phenol (1.97 g, 8 mmol), triphenylphosphine (5.2 g, 20 mmol), and diethylazodicarboxylate (3.11 ml, 20 mmol) generally according to the procedure described for Intermediate 18 afforded 1.40 g (76%) of (R)-2-bromomethyl-5-fluoro-2,3-dihydro-benzofuran as a colorless oil. HRMS ESI m/e 228.9661 [M−H]−. [α]D25=−33.0 (c 1% in methanol).

reactant | (S)-2-(3-bromo-2-hydroxy-propyl)4-fluoro-phenol | 8 mmol, 1.97 g | BrC[C@H](CC1=C(C=CC(=C1)F)O)O | C9H10BrFO2
reactant | triphenylphosphine | 20 mmol, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 20 mmol, 3.11 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | (R)-2-bromomethyl-5-fluoro-2,3-dihydro-benzofuran | 1.40 g, 76% | BrC[C@@H]1OC2=C(C1)C=C(C=C2)F | C9H8BrFO
